US04459424
The work was carried out as in Example 3, but now the rate of addition of carbon disulfide corresponded to the rate at which dimethylamine was released during the reaction. No further carbon disulfide was added after 46 minutes and the reaction had ended after 49 minutes. This method yielded a total of 35.85 g of tetramethyl thiuram disulfide, corresponding to 99.6% of theoretical.

reactant | dimethylamine | CNC | C2H7N
reactant | carbon disulfide | C(=S)=S | CS2
product | tetramethyl thiuram disulfide | 35.85 g | CN(C(SSC(N(C)C)=S)=S)C | C6H12N2S4
